US08703805B2
To a solution of methyl 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-2-hydroxybenzoate (1.29 g, 3.25 mmol) and 2,6-lutidine (0.5 mL, 1.2 equiv) in DCM (15 mL) was added triflic anhydride (0.663 mL, 1.2 equiv) at −78° C. and the reaction solution was stirred for 1 h at −78° C. After quenching with water, aqueous layer was separated and extracted with DCM. The combined organic layers were washed with saturated aqueous NaHCO3 and water and dried over Na2SO4. Evaporation of solvent gave a crude, which was purified by column chromatography on silica gel eluting with EtOAc-hexane (1:4) to afford methyl 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-2-(trifluoromethylsulfonyloxy)benzoate (1.64 g). MS 529 [M+H]+.

reactant | methyl 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-2-hydroxybenzoate | 3.25 mmol, 1.29 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=CC(=C(C(=O)OC)C1)O)C(F)(F)F | C18H12ClF3N2O3
reactant | 2,6-lutidine | 0.5 mL, 1.2 equiv | N1=C(C=CC=C1C)C | C7H9N
reactant | triflic anhydride | 0.663 mL, 1.2 equiv | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)-2-(trifluoromethylsulfonyloxy)benzoate | 1.64 g | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=CC(=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F)C(F)(F)F | C19H11ClF6N2O5S
